US05968938
1-(2-(2,2,2-trifluoroethoxy)phenylacetyl)-4-(3-ethylphenyl)piperazine
1-(3-ethylphenyl)piperazine from the previous step was dissolved in 1 mL dry DMF, and to the solution was added 0.03 g (0.128 mmol) 2-(2,2,2-trifluoroethoxy)phenylacetic acid, 0.017 g (0.128 mmol) HOBT, and 0.024 g (0.128 mmol) EDC. The reaction was stirred for 2 days, after which time the solvent was removed in vacuo and the resulting residue partitioned between EtOAc/H2O. The aqueous phase was extracted with EtOAc and the combined organic phases were washed with H2O, brine, dried over Na2SO4 and filtered. Removal of the solvent and subsequent purification via preparative TLC (2:1 Hexane/EtOAc) yielded the title compound as the free base. This was dissolved in 20 mL EtOAc and an excess of ethanolic HCl was added. The solvent was removed to give the Hcl salt of the title compound.

reactant | 1-(3-ethylphenyl)piperazine | C(C)C=1C=C(C=CC1)N1CCNCC1 | C12H18N2
reactant | 2-(2,2,2-trifluoroethoxy)phenylacetic acid | 0.128 mmol, 0.03 g | FC(COC1=C(C=CC=C1)CC(=O)O)(F)F | C10H9F3O3
reactant | HOBT | 0.128 mmol, 0.017 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.128 mmol, 0.024 g
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2-(2,2,2-trifluoroethoxy)phenylacetyl)-4-(3-ethylphenyl)piperazine | FC(COC1=C(C=CC=C1)CC(=O)N1CCN(CC1)C1=CC(=CC=C1)CC)(F)F | C22H25F3N2O2
